US06022894
A solution of 2,4,6-triphenylpyrylium tetrafluoroborate (2.97 g, 7.5 mmol) in ethanol (15 mL) was treated with 4-methylbenzylamine (1 g, 8.25 mmol). The reaction was stirred overnight at room temperature and diluted with diethyl ether to precipitate the product. The product was recrystallized from ethanol/diethyl ether to give 3.15 g of N-(4-methylbenzyl)-2,4,6-triphenylpyridinium tetrafluoroborate as a tan solid.

reactant | 2,4,6-triphenylpyrylium tetrafluoroborate | 7.5 mmol, 2.97 g | F[B-](F)(F)F.C1(=CC=CC=C1)C1=[O+]C(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-methylbenzylamine | 8.25 mmol, 1 g | CC1=CC=C(CN)C=C1 | C8H11N
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(4-methylbenzyl)-2,4,6-triphenylpyridinium tetrafluoroborate | 3.15 g | F[B-](F)(F)F.CC1=CC=C(C[N+]2=C(C=C(C=C2C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C31H26N.BF4/c1-24-17-19-25(20-18-24)23-32-30(27-13-7-3-8-14-27)21-29(26-11-5-2-6-12-26)22-31(32)28-15-9-4-10-16-28;2-1(3,4)5/h2-22H,23H2,1H3;/q+1;-1
